US05565586
Synthesis of-(4-bromo-3-methyl-2-butenyl) acetate
Into acetic acid (500 ml) were dissolved 85 g (1.25 mol) of isoprene. Under stirring at 15° C., 260 g (1.45 mol ) of N-bromosuccinimide were added therein dividedly four times little by little over two hours. Thereafter, the resulting mixture was stirred for additional two hours. The reaction liquid was added into ice water and extracted with ether. After the organic layer was washed with water, washed with a 5% aqueous solution of sodium hydrogencarbonate, washed with water and dried, the solvent was distilled off. The resulting residue was distilled under reduced pressure, whereby 115 g of the title compound were obtained. (Yield: 52.3%)

reactant | isoprene | 1.25 mol, 85 g | C=CC(C)=C | C5H8
reactant | N-bromosuccinimide | 1.45 mol, 260 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | (4-bromo-3-methyl-2-butenyl) acetate | 115 g, Yield: 52.3% | C(C)(=O)OCC=C(CBr)C | C7H11BrO2
